US07897624B2
Step e: 4-(2-Fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid
To the stirred solution of 2-fluoro-4-iodoaniline (470 mg, 1.94 mmol) in dry THF (4 mL) cooled to −78° C., was added LDA (2M in THF) (1.35 mL, 2.70 mmol). After vigorous stirring for 10 minutes at this temperature, a solution of 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (160 mg, 0.792 mmol) dissolved in dry THF (8 mL) was added dropwise through a syringe. The dry-ice bath was removed after 1 hour, and the reaction was stirred for 16 hours at room temperature At this time, LC/MS indicated 23% of the title product and 33% of unreacted chloride in the reaction mixture. The same reaction mixture was continued to stir at room temperature for additional 24 hours. The mixture was then re-cooled to −78° C. under a dry-ice/acetone bath. Additional LDA (1.35 mL, 2.70 mmol) (2M in THF) was added to the reaction mixture and slowly warmed to room temperature in 16 hours until LC/MS showed the consumption of chloride material. The mixture was cooled to −5° C., and aqueous HCl (1N) (15 mL) was added. The solution was extracted with EtOAc (15 mL×3). The combined organic layers was dried (MgSO4) and concentrated to give a residue which was triturated with DCM to give a solid. The title compound was used for the next reaction without further purification. (165 mg, 52% yield).

reactant | 2-fluoro-4-iodoaniline | 1.94 mmol, 470 mg | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | LDA | 2.70 mmol, 2M, 1.35 mL | [Li+].CC(C)[N-]C(C)C
reactant | 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.792 mmol, 160 mg | ClC=1C(=CN(C(C1C)=O)C)C(=O)O | C8H8ClNO3
reactant | LDA | 2.70 mmol, 2M, 1.35 mL | [Li+].CC(C)[N-]C(C)C
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(2-Fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 52% yield | FC1=C(C=CC(=C1)I)NC=1C(=CN(C(C1C)=O)C)C(=O)O | C14H12FIN2O3
